US09403835B2
Intermediate B9: 4-(2-carboxy-phenoxy)-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester
A solution of sodium chlorite (274 mg; 3.03 mmol; 5 eq.) and sodium dihydrogen phosphate (291 mg; 2.42 mmol; 40 eq.) in water (4 mL) was added dropwise to a solution of 2-methyl-but-2-ene (0.5 mL) and 3-fluoro-4-(2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (196 mg; 0.61 mmol; 1 eq.) in 1,4-dioxane (4 mL) and the resulting mixture was stirred a room temperature for 3 hours. The dioxane was evaporated in vacuo and the pH made acidic with 1M HCl. The solution was extracted with ethyl acetate (2×), washed with brine, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (205 mg, 100%) as a yellow oil. UPLC/MS: (MS−) 338.2 ([M−H]−).

reactant | sodium chlorite | 3.03 mmol, 274 mg, 5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate | 2.42 mmol, 291 mg, 40 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-but-2-ene | 0.5 mL | CC(C)=CC | C5H10
reactant | 3-fluoro-4-(2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.61 mmol, 196 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(C(CC1)OC1=C(C=CC=C1)C=O)F | C17H22FNO4
solvent | water | 4 mL | O | H2O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-(2-carboxy-phenoxy)-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester | 205 mg, 100% | C(C)(C)(C)OC(=O)N1CC(C(CC1)OC1=C(C=CC=C1)C(=O)O)F | C17H22FNO5
